US04845110
(c) 3-(3-Methoxycarbonylphenyl)propanal
3-(3-Methoxycarbonylphenyl)propanol (1.9 g) was oxidised with chromium trioxide (5.0 g) in pyridine (7.9 ml) as described in Example 1(e) to give the product as a pale oil.

reactant | 3-(3-Methoxycarbonylphenyl)propanol | 1.9 g | COC(=O)C=1C=C(C=CC1)CCCO | C11H14O3
solvent | pyridine | 7.9 ml | N1=CC=CC=C1 | C5H5N
catalyst | chromium trioxide | 5.0 g | [O-2].[O-2].[O-2].[Cr+6]
product | 3-(3-Methoxycarbonylphenyl)propanal | COC(=O)C=1C=C(C=CC1)CCC=O | C11H12O3
